US07371748B2
(R)-Tetrahydro-furan-2-carboxylic acid (7-[1,4]dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-amide
Using 7-[1,4]dioxepan-6-yl-4-methoxy-benzothiazol-2-ylamine and (R)-tetrahydrofuran-2-carboxylic acid, the title compound was prepared as white powder. MS: m/e=379(M+H+).

reactant | 7-[1,4]dioxepan-6-yl-4-methoxy-benzothiazol-2-ylamine | O1CCOCC(C1)C1=CC=C(C=2N=C(SC21)N)OC | C13H16N2O3S
reactant | (R)-tetrahydrofuran-2-carboxylic acid | O1[C@H](CCC1)C(=O)O | C5H8O3
product | (R)-Tetrahydro-furan-2-carboxylic acid (7-[1,4]dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-amide | O1CCOCC(C1)C1=CC=C(C=2N=C(SC21)NC(=O)[C@@H]2OCCC2)OC | C18H22N2O5S
